US09085540B2
To a mixture of 6-ethyl-3-({4-[(4-methylpiperazin-1-yl)methyl]phenyl}amino)-5-(3-nitrophenoxy)pyrazine-2-carboxamide (112 mg) in ethanol (3 mL) and water (1 mL) were added iron chloride (III) hexahydrate (31 mg), activated carbon (60 mg), and hydrazine monohydrate (221 μL), followed by stirring at 80° C. for 2 hours. The reaction mixture was left to be cooled, and then water was added thereto. The insoluble matter was collected by filtration. To the obtained solid was added a solution in chloroform-methanol (10:1), and the insoluble matter was separated by filtration. The obtained filtrate was concentrated under reduced pressure to obtain 5-(3-aminophenoxy)-6-ethyl-3-({4-[(4-methylpiperazin-1-yl)methyl]phenyl}amino)pyrazine-2-carboxamide (46 mg) as a pale yellow solid.

reactant | 6-ethyl-3-({4-[(4-methylpiperazin-1-yl)methyl]phenyl}amino)-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 112 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)CN1CCN(CC1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C25H29N7O4
reactant | hydrazine monohydrate | 221 μL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | iron chloride | 31 mg | [Fe](Cl)Cl
product | 5-(3-aminophenoxy)-6-ethyl-3-({4-[(4-methylpiperazin-1-yl)methyl]phenyl}amino)pyrazine-2-carboxamide | 46 mg | NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)CN2CCN(CC2)C)C=CC1 | C25H31N7O2
